US05945557
Preparation of 5-(3-hydroxyphenyl)-3 -phenyl-2-pyrazoline
To a 250 ml round bottom flask equipped with magnetic stirrer and reflux condenser was charged 3.2 g (0.0143 moles) of 3-hydroxychalcone, 50 mls of ethanol and 0.7 g (0.0143 moles) of hydrazine monohydrate. The reaction was refluxed for a total of 2 hours, after which it was cooled to ambient temperature. The resulting solid was collected by vacuum filtration, washed with hexane, and dried in vacuuo at 40° C. overnight to afford 3.4 g of the title compound, 3-phenyl-5-(3-hydroxyphenyl)-2-pyrazoline as a tan solid. 99% isolated yield.

reactant | 3-hydroxychalcone | 0.0143 moles, 3.2 g | OC=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H12O2
reactant | hydrazine monohydrate | 0.0143 moles, 0.7 g | O.NN
solvent | ethanol | 50 mls | C(C)O | C2H6O
product | 5-(3-hydroxyphenyl)-3 -phenyl-2-pyrazoline | 3.4 g | OC=1C=C(C=CC1)C1CC(=NN1)C1=CC=CC=C1 | C15H14N2O
